Truncated Datasets/Truncated Pathways Dataset (first 1000 rows).csv
original_reactions,updated_reaction,mechanistic_class,mechanistic_label,data_source
Cl[C:1](=[O:2])[c:3]1[cH:4][c:5]([Cl:6])[cH:7][c:8]([Cl:9])[cH:10]1.[NH2:11][c:12]1[c:13]([C:14]([OH:15])([C:16]([F:17])([F:18])[F:19])[C:20]([F:21])([F:22])[F:23])[cH:24][cH:25][c:26]2[cH:27][cH:28][cH:29][cH:30][c:31]12>>[C:1](=[O:2])([c:3]1[cH:4][c:5]([Cl:6])[cH:7][c:8]([Cl:9])[cH:10]1)[NH:11][c:12]1[c:13]([C:14]([OH:15])([C:16]([F:17])([F:18])[F:19])[C:20]([F:21])([F:22])[F:23])[cH:24][cH:25][c:26]2[cH:27][cH:28][cH:29][cH:30][c:31]12,[NH2:11][c:12]1[c:13]([C:14]([OH:15])([C:16]([F:17])([F:18])[F:19])[C:20]([F:21])([F:22])[F:23])[cH:24][cH:25][c:26]2[cH:27][cH:28][cH:29][cH:30][c:31]12.[Cl:101][C:1](=[O:2])[c:3]1[cH:4][c:5]([Cl:6])[cH:7][c:8]([Cl:9])[cH:10]1>>[C:1](=[O:2])([c:3]1[cH:4][c:5]([Cl:6])[cH:7][c:8]([Cl:9])[cH:10]1)[NH:11][c:12]1[c:13]([C:14]([OH:15])([C:16]([F:17])([F:18])[F:19])[C:20]([F:21])([F:22])[F:23])[cH:24][cH:25][c:26]2[cH:27][cH:28][cH:29][cH:30][c:31]12,nucleophilic_attack_to_(thio)carbonyl_or_sulfonyl,"[(11, 1), ([1, 2], 2), (2, [2, 1]), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
[CH3:1][NH:2][S:3](=[O:4])(=[O:5])[CH2:6][c:7]1[cH:8][cH:9][cH:10][c:11]([C:12]#[N:13])[cH:14]1>>[CH3:1][NH:2][S:3](=[O:4])(=[O:5])[CH2:6][c:7]1[cH:8][cH:9][cH:10][c:11]([CH2:12][NH2:13])[cH:14]1,[CH3:1][NH:2][S:3](=[O:4])(=[O:5])[CH2:6][c:7]1[cH:8][cH:9][cH:10][c:11]([C:12]#[N:13])[cH:14]1.[Li+:301].[AlH4-:302].[OH2:303].[OH2:304]>>[CH3:1][NH:2][S:3](=[O:4])(=[O:5])[CH2:6][c:7]1[cH:8][cH:9][cH:10][c:11]([CH2:12][NH2:13])[cH:14]1,nitrile_reduction,"[([302, 302.1], 12), ([12, 13], 301), ([302, 302.1], 12), ([12, 13], 302), ([301, 13], 303.1), ([303.1, 303], 303), ([302, 13], 304.1), ([304.1, 304], 304)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
Cl[CH2:1][CH2:2][N:3]([CH2:4][CH3:5])[CH2:6][CH3:7].[O:8]=[N+:9]([O-:10])[c:11]1[cH:12][cH:13][c:14]([SH:15])[cH:16][cH:17]1>>[CH2:1]([CH2:2][N:3]([CH2:4][CH3:5])[CH2:6][CH3:7])[S:15][c:14]1[cH:13][cH:12][c:11]([N+:9](=[O:8])[O-:10])[cH:17][cH:16]1,[O:8]=[N+:9]([OH:10])[c:11]1[cH:12][cH:13][c:14]([SH:15])[cH:16][cH:17]1.[Cl:101][CH2:1][CH2:2][N:3]([CH2:4][CH3:5])[CH2:6][CH3:7].[H-:301].[Na+]>>[CH2:1]([CH2:2][N:3]([CH2:4][CH3:5])[CH2:6][CH3:7])[S:15][c:14]1[cH:13][cH:12][c:11]([N+:9](=[O:8])[OH:10])[cH:17][cH:16]1,SN2_alcohol(thiol),"[(301, 15.1), ([15.1, 15], 15), (15, 1), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
O[C:1]([c:2]1[cH:3][cH:4][c:5]([C@H:6]2[C@H:7]([NH:8][C:9]([O:10][C:11]([CH3:12])([CH3:13])[CH3:14])=[O:15])[CH2:16]2)[cH:17][cH:18]1)=[O:19].[CH3:20][NH:21][CH2:22][c:23]1[cH:24][cH:25][cH:26][cH:27][cH:28]1>>[C:1]([c:2]1[cH:3][cH:4][c:5]([C@H:6]2[C@H:7]([NH:8][C:9]([O:10][C:11]([CH3:12])([CH3:13])[CH3:14])=[O:15])[CH2:16]2)[cH:17][cH:18]1)(=[O:19])[N:21]([CH3:20])[CH2:22][c:23]1[cH:24][cH:25][cH:26][cH:27][cH:28]1,[OH:101][C:1]([c:2]1[cH:3][cH:4][c:5]([C@H:6]2[C@H:7]([NH:8][C:9]([O:10][C:11]([CH3:12])([CH3:13])[CH3:14])=[O:15])[CH2:16]2)[cH:17][cH:18]1)=[O:19].[CH3:20][NH:21][CH2:22][c:23]1[cH:24][cH:25][cH:26][cH:27][cH:28]1.[N:301](=[C:302]=[N:303]C1CCCCC1)C2CCCCC2>>[C:1]([c:2]1[cH:3][cH:4][c:5]([C@H:6]2[C@H:7]([NH:8][C:9]([O:10][C:11]([CH3:12])([CH3:13])[CH3:14])=[O:15])[CH2:16]2)[cH:17][cH:18]1)(=[O:19])[N:21]([CH3:20])[CH2:22][c:23]1[cH:24][cH:25][cH:26][cH:27][cH:28]1,DCC_condensation,"[(301, 101.1), ([101.1, 101], 101), (101, 302), ([302, 301], 301), (21, 1), ([1, 19], 19), (303, 21.1), ([21.1, 21], 21), (19, [19, 1]), ([1, 101], 101), (101, [101, 302]), ([302, 303], 303)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
[CH3:13][O:14][c:15]1[cH:16][cH:17][cH:18][c:19]([CH2:20][NH2:21])[cH:22]1.[CH3:1][O:2][c:3]1[cH:4][cH:5][cH:6][c:7]([CH2:8][N:9]=[C:10]=[S:11])[cH:12]1>>[CH3:1][O:2][c:3]1[cH:4][cH:5][cH:6][c:7]([CH2:8][NH:9][C:10](=[S:11])[NH:21][CH2:20][c:19]2[cH:18][cH:17][cH:16][c:15]([O:14][CH3:13])[cH:22]2)[cH:12]1,[CH3:1][O:2][c:3]1[cH:4][cH:5][cH:6][c:7]([CH2:8][N:9]=[C:10]=[S:11])[cH:12]1.[CH3:13][O:14][c:15]1[cH:16][cH:17][cH:18][c:19]([CH2:20][NH2:21])[cH:22]1>>[CH3:1][O:2][c:3]1[cH:4][cH:5][cH:6][c:7]([CH2:8][NH:9][C:10](=[S:11])[NH:21][CH2:20][c:19]2[cH:18][cH:17][cH:16][c:15]([O:14][CH3:13])[cH:22]2)[cH:12]1,nucleophilic_attack_to_iso(thio)cyanate,"[(21, 10), ([10, 11], 11), (11, 21.1), ([21.1, 21], 21), (11, [11, 10]), ([10, 9], 9), (9, 11.1), ([11.1, 11], 11)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
